* source CHARGER4820
V_V1         +15V 0 12Vdc
C_C25         0 N036951  10n  
R_R35         N14714 VR  1k  
L_L8         N25143 0  10uH  
C_C1         AC1 AC2  1n  
L_L5         0 N25137  10uH  
R_R41         0 N00731  0.005  
L_L2         N00085 N00304  20uH  
C_C17         +15V 0  220uF  
R_R26         0 N021311 {10k*0.5+.001}
R_R27         0 N02449 {1.5k*0.5+.001}
C_C23         DCOUT 0  100oF  
L_L4         N00345 0  20uH  
D_D12         N02465 N01498 D1N4148 
X_U1A         N014830 N01523 +15V 0 N01504 LM358
D_D7         N01504 N01498 D1N4148 
R_R11         N014830 N00731  1k  
R_R14         N01504 N01523  1k  
D_D5         0 AC1 D1N5404 
R_R15         0 N01523 {1k*0.5+.001}
M_M1         N00081 N00304 N00085 N00085 IRFP460
C_C8         N01504 N01523  1n  
M_M2         N00085 N00345 0 0 IRFP460
R_R39         N01401 N01498  10k  
X_D15         N25137 N00713 D120NQ045 
R_R5         N00713 0  1k  
C_C6         N00081 N00073  2000uF  
R_R16         N036951 N00345  100  
C_C21         VR 0  10uF  
C_C3         N00085 N25131  10u/100V  
C_C26         0 +15V  100n  
X_U4         N01401 N14714 N1624810 N14590 N1624811 N14733 0 N00451 0 +15V
+  N00442 +15V VR SG1525 
+ PARAMS: PERIOD=20us DEADTIME=1us
R_R2         N00073 N00081  100k  
R_R9         0 N00073  100k  
R_R34         0 N01401  1000k  
D_D2         AC2 N06568 D1N5404 
C_C15         N00073 0  2000uF  
Q_Q3         0 N00451 N00419 Q2SA1020 
D_D1         AC1 N06568 D1N5404 
R_R7         0 AC1  1000k  
Q_Q4         0 N00442 N00416 Q2SA1020 
V_V2         AC2 AC1  
+SIN 0 310 50 0 0 0
Q_Q1         +15V N00451 N00419 Q2SC4760 
Q_Q2         +15V N00442 N00416 Q2SC4760 
D_D8         N00419 +15V D1N4376 
D_D10         0 N00419 D1N4376 
Kn_K2         L_L5 L_L6 
+ L_L8    1 
D_D11         0 N00416 D1N4376 
D_D9         N00416 +15V D1N4376 
Kn_K1         L_L2 L_L3 
+ L_L4    0.8 
R_R3         N00073 N25131  1k  
L_L6         N25131 N00073  10uH  
C_C24         N00085 N035621  10n  
D_D6         0 AC2 D1N5404 
R_R12         N035621 N00304  100  
R_R40         VR N1624810  1k  
R_R8         0 AC2  1000k  
X_U1B         N021270 N02459 +15V 0 N02465 LM358
D_D13         N02456 N021291 D1N4148 
D_D14         N021291 N021311 D1N4148 
C_C22         N1624811 0  1n  
R_R20         N02459 N02456  100k  
R_R19         N021270 N02449  100k  
L_L3         N00416 N00419  20uH  
R_R25         N02465 N02459  100k  
X_D4         N25143 N00713 D120NQ045 
R_R42         N25137 0  1k  
R_R30         0 VR  1k  
C_C19         0 N14590  1n  
L_L7         N00713 DCOUT  10uH  
R_R43         N25143 0  1k  
R_R1         N06568 N00081  0.05  
R_R37         0 N14454  1k  
R_R36         N14590 N144490  1k  
R_R21         N02456 VR  10k  
R_R38         N14733 N01401  1k  
R_R33         0 N14714  1k  
R_R4         N00731 DCOUT  10  
R_R17         N02449 DCOUT  22k  
** Floating/unmodeled pin fixups **
R__UC0001   N14454  0   {1/GMIN}
R__UC0002   N144490  0   {1/GMIN}
