* source REFIL
D_D1         N00095 OUT D1N5404 
D_D2         0 N00095 D1N5404 
D_D3         N00062 OUT D1N5404 
D_D4         0 N00062 D1N5404 
C_C1         N00133 OUT  2000u  
R_R1         0 OUT  39  
V_V1         N00062 N00095  
+SIN 0 226 50Hz 0 0 0
D_D5         DV 0 D1N4148 
R_R3         DV N00329  5.1k  
V_V2         N00329 0 5Vdc
C_C2         0 N00133  2000u  
R_R2         0 N00133  1000k  
