* source TRANS
V_V1         N00039 0  
+SIN 0 10 10kHz 0 0 0
R_R1         0 N00047  1k  
Kn_K2         L_L1 L_L2     1 
L_L1         N00093 0  10mH  
R_R2         N00039 N00093  1  
L_L2         0 N00047  10mH  
